US08609656B2
(1-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-1H-benzimidazol-5-yl)carbamic acid ethyl ester (Table 1, Compound No. 43)
The title compound can be synthesized from 1-[4-[5-aminobenzimidazol-1-yl]phenyl]-3-(4-chloro-3-(trifluoro-methyl)phenyl)urea hydrochloride and ethyl chloroformate by the same method as in Example 41.

reactant | 1-[4-[5-aminobenzimidazol-1-yl]phenyl]-3-(4-chloro-3-(trifluoro-methyl)phenyl)urea hydrochloride | Cl.NC1=CC2=C(N(C=N2)C2=CC=C(C=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C=C1
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | (1-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-1H-benzimidazol-5-yl)carbamic acid ethyl ester | C(C)OC(NC1=CC2=C(N(C=N2)C2=CC=C(C=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)C=C1)=O | C24H19ClF3N5O3
